MM7 (net75 net60 net11 net18) pmos4
MM6 (net13 VSS net11 net18) pmos4
MM5 (net11 net1004 VDD VDD) pmos4
MM1 (net75 net17 net20 VSS) nmos4
MM0 (net13 net17 net19 VSS) nmos4
MM9 (net20 net13 VSS VSS) nmos4
MM8 (net19 net13 VSS VSS) nmos4
MM1 (VB1 VB1 VSS VSS) nmos4
MM0 (net1004 net6 VSS VSS) nmos4
MM8 (net6 net6 VSS VSS) nmos4
MM2 (VB1 net1004 VDD VDD) pmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM10 (net6 net1006 VDD VDD) pmos4
MM11 (net023 net024 VB2 VSS) nmos4
MM8 (net025 net010 net023 VSS) nmos4
MM9 (net024 net024 net023 VSS) nmos4
MM7 (net010 net010 net025 VSS) nmos4
MM2 (VB2 VB2 VSS VSS) nmos4
MM0 (net1006 net025 VSS VSS) nmos4
MM10 (net024 net1006 VDD VDD) pmos4
MM4 (net010 net1006 VDD VDD) pmos4
MM3 (VB2 net1006 VDD VDD) pmos4
MM1 (net1006 net1006 VDD VDD) pmos4
M23 (net63 VCLK2 VOUT1 VSS) nmos4
M22 (net60 VCLK3 net62 VSS) nmos4
M25 (net63 VCLK3 VSS VSS) nmos4
M24 (net62 VCLK2 VSS VSS) nmos4
M15 (VOUT1 net72 net68 VSS) nmos4
M14 (net72 VOUT1 net71 VSS) nmos4
M13 (net68 net75 net67 VSS) nmos4
M12 (net71 VSS net67 VSS) nmos4
M10 (net67 VCLK1 VSS VSS) nmos4
C2 (net60 net75) capacitor
C1 (net62 net63) capacitor
C0 (net60 VOUT1) capacitor
M21 (net71 VCLK1 VDD VDD) pmos4
M20 (net68 VCLK1 VDD VDD) pmos4
M19 (VOUT1 VCLK1 VDD VDD) pmos4
M18 (VOUT1 net72 VDD VDD) pmos4
M17 (net72 VOUT1 VDD VDD) pmos4
M16 (net72 VCLK1 VDD VDD) pmos4